US06174898B1
A solution of ethyl magnesium bromide in diethyl ether (58 ml, 3 M) was added dropwise at room temperature to a mixture of 3-methoxybenzonitrile (21.2 g, 0.159 mol) and dry THF (250 ml). When addition was complete the mixture was stirred for 1 h at room temperature, 3 h at 40° C. and finally stirred overnight at room temperature. Water (250 ml) was added followed by a saturated ammonium chloride solution (250 ml) and the mixture was stirred for 1 h at room temperature. The phases were separated and the aqueous phase was extracted with ethyl acetate (100 ml). The combined organic phases was dried (MgSO4) and the solvent evaporated in vacuo to give 25.9 g (99%) of 3-methoxypropiophenone.

reactant | ethyl magnesium bromide | C(C)[Mg]Br
reactant | 3-methoxybenzonitrile | 0.159 mol, 21.2 g | COC=1C=C(C#N)C=CC1 | C8H7NO
reactant | THF | 250 ml | C1CCOC1 | C4H8O
reactant | ammonium chloride | 250 ml | [Cl-].[NH4+]
reactant | diethyl ether | 3 M, 58 ml | C(C)OCC | C4H10O
solvent | Water | 250 ml | O | H2O
product | 3-methoxypropiophenone | 25.9 g, 99% | COCCC(=O)C1=CC=CC=C1 | C10H12O2
